US09108939B2
A: tert-Butyl 4-(6-nitro-1H-indazol-1-yl)piperidine-1-carboxylate
6-Nitro-1H-indazole (12.26 mmol, 2 g), tert-butyl 4-(methylsulfonyloxy)piperidine-1-carboxylate (12.26 mmol, 3.42 g) and potassium carbonate (24.52 mmol, 3.39 g) were combined and heated to 100° C. in N,N-dimethylformamide (40 mL) for 4 hours. The reaction mixture was diluted with ethyl acetate and washed with water. The organic phase was dried over sodium sulfate and concentrated at reduced pressure. The resulting residue was purified by silica chromatography (eluting with a solvent gradient from 20% ethyl acetate/heptane to 60% ethyl acetate/heptane) to afford the title compound (1.045 g). MS (ESI) m/z 347.2 [M+H]+

reactant | 6-Nitro-1H-indazole | 12.26 mmol, 2 g | [N+](=O)([O-])C1=CC=C2C=NNC2=C1 | C7H5N3O2
reactant | tert-butyl 4-(methylsulfonyloxy)piperidine-1-carboxylate | 12.26 mmol, 3.42 g | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
reactant | potassium carbonate | 24.52 mmol, 3.39 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(6-nitro-1H-indazol-1-yl)piperidine-1-carboxylate | 1.045 g | [N+](=O)([O-])C1=CC=C2C=NN(C2=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C17H22N4O4
